US06660744B1
Cis-3-{4-[4-(aminomethyl)phenoxy]phenyl}-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.051 g, 0.0001 mol) was dissolved in anhydrous pyridine (1 mL), methanesulfonyl chloride (0.011 g, 0.0001 mol) was added and the resulting solution was stirred at ambient temperature for 20 hours. The solvent was removed under reduced pressure and the resulting residue purified by preparative HPLC (Hypersil C18, 8 μm, 25 cm; 10-60% acetonitrile—0.1M ammonium acetate over 25 min, 21 mL/min) to yield cis N-[4-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenoxy)benzyl]methanesulfonamide acetate (0.011 g, 0.000017 mol) as a white solid.

reactant | Cis-3-{4-[4-(aminomethyl)phenoxy]phenyl}-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.0001 mol, 0.051 g | NCC1=CC=C(OC2=CC=C(C=C2)C2=NN(C3=NC=NC(=C32)N)[C@@H]3CC[C@@H](CC3)N3CCN(CC3)C)C=C1 | C29H36N8O
reactant | methanesulfonyl chloride | 0.0001 mol, 0.011 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | cis N-[4-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenoxy)benzyl]methanesulfonamide acetate | 0.000017 mol, 0.011 g | C(C)(=O)O.NC1=C2C(=NC=N1)N(N=C2C2=CC=C(OC1=CC=C(CNS(=O)(=O)C)C=C1)C=C2)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | InChI=1S/C30H38N8O3S.C2H4O2/c1-36-15-17-37(18-16-36)23-7-9-24(10-8-23)38-30-27(29(31)32-20-33-30)28(35-38)22-5-13-26(14-6-22)41-25-11-3-21(4-12-25)19-34-42(2,39)40;1-2(3)4/h3-6,11-14,20,23-24,34H,7-10,15-19H2,1-2H3,(H2,31,32,33);1H3,(H,3,4)/t23-,24+;
